US07312225B2
8k) Production of [3-(2-Amino-phenoxy)-propyl]-(5-bromo-2-chloro-pyrimidin-4-yl)-amine
A solution of 500 mg (1.29 mmol) of (5-bromo-2-chloro-pyrimidin-4-yl)-[3-(2-nitro-phenoxy)-propyl]-amine in 20 ml of THF is mixed at room temperature with 6.0 ml of an approximately 10% solution of Ti(III)Cl in 20-30% hydrochloric acid. After 21 hours, another 2.0 ml of the Ti(III)Cl solution is added. Renewed additions of the Ti(III)Cl solution are carried out after 4 hours (3.0 ml) or 16 hours (4.0 ml). After another 6 hours, the batch is diluted with ethyl acetate and made basic with 1N NaOH solution. It is filtered on Celite, and the filter cake is washed with ethyl acetate. The organic phase is separated, dried (Na2SO4), filtered and concentrated by evaporation. The residue that is obtained is purified by chromatography (hexane/ethyl acetate 7:3). 290 mg (0.81 mmol, corresponding to 62% of theory) of the product is obtained.

reactant | (5-bromo-2-chloro-pyrimidin-4-yl)-[3-(2-nitro-phenoxy)-propyl]-amine | 1.29 mmol, 500 mg | BrC=1C(=NC(=NC1)Cl)NCCCOC1=C(C=CC=C1)[N+](=O)[O-] | C13H12BrClN4O3
reactant | NaOH | 1N | [OH-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [3-(2-Amino-phenoxy)-propyl]-(5-bromo-2-chloro-pyrimidin-4-yl)-amine | NC1=C(OCCCNC2=NC(=NC=C2Br)Cl)C=CC=C1 | C13H14BrClN4O
